US08222243B2
(S)-Hexahydro-pyrrolo[1,2-a]pyrazin-2-yl-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl) -thiophen-2-yl]-methanone
Prepared from 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and 4-amino-3-chloropyridine by the method described in Example 2 Method B reversing the order of addition such that solid acid chloride was added to a THF solution of triethylamine and (S)-1,4-diazabicyclo[4.3.0]nonane. The reaction mixture was evaporated to a solid, triturated and filtered with the aid of water, then washed with a saturated aqueous NaHCO3 solution followed by water to afford product as a yellow colored solid (82 mg, 85%). 1H NMR (CDCl3) 1.34-1.48 (m, 1 H), 1.70-1.90 (m, 3 H), 1.92-2.20 (m, 1 H), 2.10-2.26 (m, 2 H), 2.32 (d, J=1.3, 3 H), 2.80 (br s, 1 H), 3.03-3.11 (m, 2 H), 3.20 (obs br s, 1 H), 4.40 (br s, 2 H), 7.29 (d, J=4.0, 1 H), 7.41 (d, J=3.5, 1 H). 13C NMR 7.9, 21.3, 27.5, 30.0, ˜48 (br), 51.8, 53.5, 62.8, 114.7, 118.7 (q, J=271), 128.0, 129.3, 131.2, 140.2, 155.2 (q, J=40), 157.9, 162.9. 19F NMR −63.1. LC/MS 4.34 min, [M+1]+ 386.

reactant | 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)O | C10H6F3NO3S
reactant | 4-amino-3-chloropyridine | NC1=C(C=NC=C1)Cl | C5H5ClN2
reactant | THF | C1CCOC1 | C4H8O
reactant | (S)-1,4-diazabicyclo[4.3.0]nonane | N12CCNC[C@@H]2CCC1 | C7H14N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-Hexahydro-pyrrolo[1,2-a]pyrazin-2-yl-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl) -thiophen-2-yl]-methanone | 82 mg, 85% | C1[C@H]2N(CCN1C(=O)C=1SC(=CC1)C1=NOC(=C1C)C(F)(F)F)CCC2 | C17H18F3N3O2S
